US06900215B2
A cooled (0° C.) suspension of 3′-fluoro-5′-nitrobiphenyl-2-carbonitrile (8.9 g, 37 mmol) in ethanol (70 ml) and tetrahydrofuran (70 ml) was treated with tin(II) chloride dihydrate (29 g, 129 mmol) and the mixture was stirred at ambient temperature for 4 h. The solvent was removed in vacuo and the residue treated with ice-cold 2N sodium hydroxide (400 ml). The resulting slurry was stirred for 30 min then extracted with dichloromethane (2×400 ml). The organics were combined, washed with water and brine, dried over anhydrous magnesium sulfate, filtered and pre-adsorbed onto silica. Purification by dry flash chromatography on silica, eluting with dichloromethane containing 0.5% triethylamine, afforded 5′-amino-3′-fluorobiphenyl-2-carbonitrile as a white solid (4.5 g, 58%): δH (400 MHz, CDCl3) 3.90 (2H, br), 6.45 (1H, ddd, J 8, 2 and 2), 6.58-6.63 (2H, m), 7.44 (1H, ddd, J 8, 8 and 2), 7.48 (1H, dd, J 8 and 2), 7.62 (1H, ddd, J 8, 8 and 2), 7.74 (1H, dd, J 8 and 2).

reactant | 3′-fluoro-5′-nitrobiphenyl-2-carbonitrile | 37 mmol, 8.9 g | FC=1C=C(C=C(C1)[N+](=O)[O-])C=1C(=CC=CC1)C#N | C13H7FN2O2
reactant | tin(II) chloride dihydrate | 129 mmol, 29 g | O.O.[Sn](Cl)Cl
solvent | ethanol | 70 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | 5′-amino-3′-fluorobiphenyl-2-carbonitrile | 4.5 g, 58% | NC=1C=C(C=C(C1)C=1C(=CC=CC1)C#N)F | C13H9FN2
